US04686217
3-Methyl 5-(1-methylethyl) 2-(fluoromethyl)-4-(2-fluoro-6-(trifluoromethyl)phenyl)-1,4-dihydro-6-methyl-3,5-pyridinedicarboxylate
2-Fluoro-6-(trifluoromethyl)benzaldehyde (1.51 g, 7.8 mmoles), methyl 4-fluoro-3-oxobutanoate (1.06 g, 7.8 mmoles) and 1-methylethyl 3-amino-2-butenoate (1.13 g, 7.8 mmoles) were heated at 90° under nitrogen with stirring for 2 hours. The cooled reaction mixture was chromatographed twice; first eluting with toluene/ethyl acetate mixtures and then with ethyl acetate/petroleum ether (60°-80°) mixtures. The title compound (0.1 g) was obtained on evaporation of the pure fractions mp 82°-4°.

reactant | 2-Fluoro-6-(trifluoromethyl)benzaldehyde | 7.8 mmoles, 1.51 g | FC1=C(C=O)C(=CC=C1)C(F)(F)F | C8H4F4O
reactant | methyl 4-fluoro-3-oxobutanoate | 7.8 mmoles, 1.06 g | FCC(CC(=O)OC)=O | C5H7FO3
reactant | 1-methylethyl 3-amino-2-butenoate | 7.8 mmoles, 1.13 g | NC(=CC(=O)OC(C)C)C | C7H13NO2
product | 3-Methyl 5-(1-methylethyl) 2-(fluoromethyl)-4-(2-fluoro-6-(trifluoromethyl)phenyl)-1,4-dihydro-6-methyl-3,5-pyridinedicarboxylate | 0.1 g | FCC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1C(F)(F)F)F)C(=O)OC(C)C)C | C20H20F5NO4
